US08067408B2
3-Bromo-5-chlorobenzamide
3-Bromo-5-chlorobenzoic acid (2.35 g, 10 mmol) was suspended in CH2Cl2 (50 mL) and stirred under argon at room temperature. Oxalyl chloride (2.53 g, 20 mmol) was added followed by DMF (10 μL), and the mixture stirred overnight. The solvents were pumped off. The residue was taken up in EtOAc and added to concentrated ammonium hydroxide (10 mL). This was stirred for thirty min. The phases were separated and the organic layer was washed 1× with brine, dried over anhydrous Na2SO4, filtered, and concentrated. The residue was crystallized from EtOAc/hexane to give the title compound as a white crystalline solid. LC-MS m/z 233.7 (M+H)+, 1.57 min (ret time); analytical HPLC shows 96.5% purity, (ret time 12.131 min).

reactant | 3-Bromo-5-chlorobenzoic acid | 10 mmol, 2.35 g | BrC=1C=C(C(=O)O)C=C(C1)Cl | C7H4BrClO2
reactant | Oxalyl chloride | 20 mmol, 2.53 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 10 μL | CN(C)C=O | C3H7NO
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Bromo-5-chlorobenzamide | BrC=1C=C(C(=O)N)C=C(C1)Cl | C7H5BrClNO
